US07745452B2
To a suspension of N-(2-benzoyl-4-chlorophenyl)-1H-imidazole-1-carboxamide (39.3 g, 120.5 mmol) in THF (200 mL) was added 2,2,2-trifluoroethylamine (14.0 g, 141.0 mmol). The reaction was heated to 50° C. for 16 h. A second portion of 2,2,2-trifluoroethylamine (3.6 gm, 36.4 mmol) was added and warming continued at 50° C. for 3 h. The reaction was cooled to ambient temperature and concentrated in vacuo. The light yellow oil was partitioned between n-butyl chloride (500 mL) and aqueous 10% citric acid (300 mL) with vigorous stirring. The resulting precipitate was collected by vacuum filtration and placed under vacuum alongside P2O5 for 16 h to give 35.4 g (82.4%) of 6-chloro-4-hydroxy-4-phenyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one as an off-white solid. 1H NMR (CDCl3, 400 MHz) 8.41 (brs, 1H); 7.47 (d, J=8.06 Hz, 2H); 7.36 (m, 3H); 7.27 (m, 1H); 7.21 (dd, J=2.26 Hz and 8.52 Hz, 1H); 6.76 (d, J=8.52 Hz, 1H); 4.37 (m, 1H); 3.55 (m, 1H); 3.25 (s, 1H). MS (Electrospray): m/z 357.0 (M+H).

reactant | N-(2-benzoyl-4-chlorophenyl)-1H-imidazole-1-carboxamide | 120.5 mmol, 39.3 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NC(=O)N1C=NC=C1 | C17H12ClN3O2
reactant | 2,2,2-trifluoroethylamine | 141.0 mmol, 14.0 g | FC(CN)(F)F | C2H4F3N
reactant | 2,2,2-trifluoroethylamine | 36.4 mmol, 3.6 gm | FC(CN)(F)F | C2H4F3N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 6-chloro-4-hydroxy-4-phenyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 35.4 g, 82.4% | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C1=CC=CC=C1)O | C16H12ClF3N2O2
